US08193199B2
To a stirring solution of 2-(bromomethyl)-5-chloro-3-(2-(trifluoromethyl)phenyl)-quinoxaline (0.7173 g, 1.786 mmol) in DMF (8.930 mL, 1.786 mmol) was added sodium azide (0.2322 g, 3.572 mmol) at room temperature and the mixture was stirred at room temperature. After 30 min, the mixture was partitioned between EtOAc (100 mL) and H2O (100 mL). The organic layer was washed with brine (50 mL×1), dried over Na2SO4, filtered, and concentrated under reduced pressure to give bluish-brown syrup. The bluish-brown syrup was purified by silica gel column chromatography on a 40 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 14 min, then 50% isocratic of EtOAc for 5 min as eluent to give 2-(azidomethyl)-5-chloro-3-(2-(trifluoromethyl)phenyl)quinoxaline: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.20 (1H, dd, J=8.6, 1.2 Hz), 8.10-8.14 (1H, m), 7.99 (1H, d, J=7.8 Hz), 7.95 (1H, dd, J=8.4, 7.6 Hz), 7.79-7.91 (3H, m), 4.41-4.67 (2H, m); LC-MS (ESI) major peak of m/z 364.0 [M+H]+. The crude product was carried on crude without purification for the next step. To a solution of 2-(azidomethyl)-5-chloro-3-(2-(trifluoromethyl)phenyl)-quinoxaline (0.5736 g, 1.58 mmol) in methanol (17.500 mL, 1.58 mmol) was added palladium, 10 wt. % on activated carbon (0.0839 g, 0.0789 mmol). After repeating three times of evacuation of air in the flask by house vacuum and filling the flask with H2, the mixture was stirred under H2. After 45 min, the mixture was filtered through a pad of Celite™ and rinsed the pad with MeOH. The filtrate was concentrated under reduced pressure to give blue syrup. The blue syrup was purified by column chromatography on a 80 g of Redi-Sep™ column using 0 to 12% gradient of CH2Cl2:MeOH:NH4OH (89:9:1) in CH2Cl2 over 3 min, 12% isocratic of CH2Cl2:MeOH:NH4OH (89:9:1) in CH2Cl2 for 4 min, 12% to 100% gradient of CH2Cl2:MeOH:NH4OH (89:9:1) in CH2Cl2 over 22 min as eluent to give (5-chloro-3-(2-(trifluoromethyl)phenyl)quinoxalin-2-yl)methanamine as a blue syrupy solid: 1H NMR (500 MHz, DMSO-d6) δ ppm 8.15 (1H, dd, J=8.6, 1.2 Hz), 8.04 (1H, dd, J=7.6, 1.2 Hz), 7.97 (1H, d, J=7.6 Hz), 7.74-7.92 (4H, m), 3.62-3.91 (2H, m), 1.98 (2H, br. s.); LC-MS (ESI) m/z 338.0 [M+H]+.

reactant | 2-(bromomethyl)-5-chloro-3-(2-(trifluoromethyl)phenyl)-quinoxaline | 1.786 mmol, 0.7173 g | BrCC1=NC2=CC=CC(=C2N=C1C1=C(C=CC=C1)C(F)(F)F)Cl | C16H9BrClF3N2
reactant | DMF | 1.786 mmol, 8.930 mL | CN(C)C=O | C3H7NO
reactant | sodium azide | 3.572 mmol, 0.2322 g | [N-]=[N+]=[N-].[Na+]
product | 2-(azidomethyl)-5-chloro-3-(2-(trifluoromethyl)phenyl)quinoxaline | N(=[N+]=[N-])CC1=NC2=CC=CC(=C2N=C1C1=C(C=CC=C1)C(F)(F)F)Cl | C16H9ClF3N5
